US08669234B2
(1-{2-[6-(4-{2-[2-(2-Methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-imidazol-4-yl}-phenyl)-1H-benzoimidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester:
Following the procedure used to prepare compound 2-(5-{4′-[2-(1-Boc-pyrrolidin-3-yl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester, except that [2-methyl-1-(3-(5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carbonyl)-propyl]-carbamic acid methyl ester and {1-[2-(6-bromo-1H-benzoimidazol-2-yl)-pyrrolidine-1-carbonyl]-propyl}-carbamic acid methyl ester were used instead of 2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester and 3-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester. 1H-NMR (300 MHz, CD3OD) δ 8.10-7.80 (m, 7H), 5.42-5.30 (m, 1H), 4.65 (s, 1H), 4.40-4.25 (m, 2H), 4.20-3.90 (m, 2H, 3.80-3.60 (m, 6H), 3.00-2.80 (m, 1H), 2.70-2.55 (m, 1H), 2.50-1.60 (m, 12H), 1.10-0.80 (m, 12H); m/z 739.3 (M+H)+.

reactant | 2-(5-{4′-[2-(1-Boc-pyrrolidin-3-yl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1CN(CC1)C(=O)OC(C)(C)C | C36H44N6O4
reactant | [2-methyl-1-(3-(5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carbonyl)-propyl]-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C2CCC(C1C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C2)=O | C28H39BN4O5
reactant | {1-[2-(6-bromo-1H-benzoimidazol-2-yl)-pyrrolidine-1-carbonyl]-propyl}-carbamic acid methyl ester | COC(NC(CC)C(=O)N1C(CCC1)C1=NC2=C(N1)C=C(C=C2)Br)=O | C17H21BrN4O3
reactant | 2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H34BN3O4
reactant | 3-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C=1NC(=CN1)C1=CC=C(C=C1)Br | C18H22BrN3O2
product | (1-{2-[6-(4-{2-[2-(2-Methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-imidazol-4-yl}-phenyl)-1H-benzoimidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C1=NC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)C=2NC(=NC2)C2N(C1CCC2C1)C(C(C(C)C)NC(=O)OC)=O)=O | C40H50N8O6
